US06639094B2
Dehydrated tetrahydrofuran (15 ml) was cooled to −78° C. 1.53 M solution (6.5 ml) of n-butyllithium in hexane and then a solution of methylene chloride (0.8 ml) in dehydrated tetrahydrofuran (5 ml) were added thereto, and they were stirred for 10 minutes. A solution of benzyl ester (2.18 g) of N,N-dibenzyl-L-phenylalanine in dehydrated tetrahydrofuran (7 ml) was added to the obtained mixture, and they were stirred for 1 hour. 2 N hydrochloric acid (15 ml) and water (15 ml) were added to the reaction mixture to terminate the reaction. The temperature was elevated to room temperature. After the addition of water followed by the extraction with ethyl acetate, the obtained solutions in ethyl acetate were combined together and dried over anhydrous magnesium sulfate. Magnesium sulfate was filtered out. The solvent was evaporated under reduced pressure to obtain the intended (3S)-1,1-dichloro-3-dibenzylamino-4-phenyl-2-butanone (2.04 g) in a yield of 99%.

reactant | n-butyllithium | C(CCC)[Li]
reactant | methylene chloride | 0.8 ml | C(Cl)Cl | CH2Cl2
reactant | N,N-dibenzyl-L-phenylalanine | C(C1=CC=CC=C1)N([C@@H](CC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1 | C23H23NO2
reactant | hydrochloric acid | 2 N, 15 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 15 ml | O | H2O
product | (3S)-1,1-dichloro-3-dibenzylamino-4-phenyl-2-butanone | 2.04 g, yield of 99% | ClC(C([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)Cl | C24H23Cl2NO
